US09428469B2
(Z)-methyl N′-cyano-N-(3,5-dichloro-4-cyanophenyl)carbamimidothioate
Sodium methoxide (0.5M in methanol) (5.7 ml, 2.85 mmol, Eq: 1.22) was added to cyanamide (108 mg, 2.58 mmol, Eq: 1.1). After 15 minutes, the solution was added to a solution of 2,6-dichloro-4-isothiocyanatobenzonitrile (537 mg, 2.34 mmol, Eq: 1.00) in methanol (5 mL). After 1 hr, methyl iodide (704 mg, 310 μl, 4.96 mmol, Eq: 2.11) was added and the reaction was stirred overnight at room temperature. The resulting suspension was filtered and dried to give 43 mg of desired product as a gray solid. The filtrate was concentrated and chromatographed (40 g Analogix, 50% EtOAc/hex to 75% EtOAc/hex) to give 191 mg of desired product as a yellow solid. The solids were combined to give 234 mg (35%) of desired product.

reactant | Sodium methoxide | 2.85 mmol, 0.5M, 5.7 ml | C[O-].[Na+]
reactant | cyanamide | 2.58 mmol, 108 mg | N#CN | CH2N2
reactant | 2,6-dichloro-4-isothiocyanatobenzonitrile | 2.34 mmol, 537 mg | ClC1=C(C#N)C(=CC(=C1)N=C=S)Cl | C8H2Cl2N2S
reactant | methyl iodide | 4.96 mmol, 310 μl, 704 mg | CI | CH3I
solvent | methanol | 5 mL | CO | CH4O
product | (Z)-methyl N′-cyano-N-(3,5-dichloro-4-cyanophenyl)carbamimidothioate | 43 mg | C(#N)\N=C(\NC1=CC(=C(C(=C1)Cl)C#N)Cl)/SC | C10H6Cl2N4S
